US05604213
17-(3-Pyridyl)androsta-3,5,16-triene
The method followed that described in Example 1, using in step (b) diethyl(3-pyridyl)borane (0.88 g, 6.0 mmol), androsta-3,5,16-trien-17-yl trifluoromethanesulphonate (2.01 g, 5.0 mmol), prepared in step (a), THF (25 ml), bis(triphenylphosphine)palladium(II) chloride (35 mg, 0.05 mmol), and aqueous sodium carbonate (2M, 10 ml). Chromatography, on elution with dichloromethane, afforded the title compound (1.39 g, 84%) which crystallised from hexane, m.p. 110°-112° C. 1H-NMR (CDCl3) inter alia δ1.02(3H,s,19-CH3), 1.07(3H,s,18-CH3), 5.44(1H,m,6-H), 5.61(1H,m,3-H), 5.95(1H,dm, J 9.8 Hz, 4-H), 6.01(1H,m,16-H), 7.23(1H,m,Py 5-H), 7.66(1H,m,Py 4-H), 8.46(1H,m,Py 6-H), 8.63(1H,m,Py 2-H); MS m/z 331 (M+).

reactant | diethyl(3-pyridyl)borane | 6.0 mmol, 0.88 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | androsta-3,5,16-trien-17-yl trifluoromethanesulphonate | 5.0 mmol, 2.01 g | FC(S(=O)(=O)OC=1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=CCC[C@]3(C)[C@H]1CC2)(F)F | C20H25F3O3S
reactant | sodium carbonate | 2M, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.05 mmol, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 17-(3-Pyridyl)androsta-3,5,16-triene | 1.39 g, 84% | N1=CC(=CC=C1)C=1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=CCC[C@]3(C)[C@H]1CC2 | C24H29N
